US04829071
2-Formylamino-5-nitroindane
2-Formylaminoindane (15 g) was added portionwise to fuming nitric acid (30 ml, density=1.5 g/ml) whilst keeping the temperature at between 0° and -5°. Stirring was continued for 1 hour at 0° before pouring the reaction mixture onto ice/water and extracting with methylene chloride. The organic layer was washed with aqueous sodium bicarbonate, dried (MgSO4) and evaporated in vacuo to give an oil which was purified by column chromatography on silica eluting with methylene chloride containing hexane (20% down to 0%) and then methylene chloride containing methanol (0% up to 2%). The product-containing fractions were combined and evaporated to give the title compound, yield 7.7 g, m.p. 91°-92°.

reactant | 2-Formylaminoindane | 15 g | C(=O)NC1CC2=CC=CC=C2C1 | C10H11NO
reactant | nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
product | 2-Formylamino-5-nitroindane | C(=O)NC1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C10H10N2O3
